US07491716B2
5-Methyl-1H-indole-7-carboxaldehyde
Dissolve 2-Dibutoxymethyl-4-methyl-1-nitrobenzene (13.957 g, 47.373 mmol) in anhydrous tetrahydrofuran (474 mL) under nitrogen, and cool the solution to −40° C. Add vinylmagnesium bromide (190 mL, 190 mmol, 1.0 M in tetrahydrofuran) at −40° C. with stirring. Stir the reaction mixture for 40 minutes and add saturated aqueous ammonium chloride. Extract the aqueous layer with ethyl acetate. Combine the organic layers, dry over sodium sulfate, filter, and concentrate. Dissolve the residue in tetahydrofuran (160 mL) and cool to 0° C. Add aqueous 0.5 molar hydrochloric acid (20 mL) and stir the mixture at 0° C. for 1 hour. Add saturated aqueous sodium hydrogen carbonate (200 mL) and extract the aqueous layer with ethyl acetate (3×200 mL). Combine the organic layers, dry over anhydrous sodium sulfate, filter, concentrate under reduced pressure and purify by flash column chromatography (silica gel, 5% ethyl acetate/hexane) to give the title compound as a white solid

reactant | 2-Dibutoxymethyl-4-methyl-1-nitrobenzene | 47.373 mmol, 13.957 g | C(CCC)OC(C1=C(C=CC(=C1)C)[N+](=O)[O-])OCCCC | C16H25NO4
reactant | vinylmagnesium bromide | 190 mmol, 1.0 M, 190 mL | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 474 mL | O1CCCC1 | C4H8O
product | 5-Methyl-1H-indole-7-carboxaldehyde | CC=1C=C2C=CNC2=C(C1)C=O | C10H9NO
